US08895586B2
To the solution of 6-chloro-N-methyl-4-(o-tolyl)pyridin-3-amine (18.87 g, 81.3 mmol) and DMAP (29.8 g, 243.9 mmol) in 200 mL of anhydrous toluene was added the solution of 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride (28.5 g, 89.4 mmol) in toluene under N2 atmosphere. The solution was heated at 120° C. for 23 hrs. Cooled to room temperature, poured into 1 L of 5% aq. NaHCO3 solution, and extracted with EtOAc twice. The combined organic phases were washed by water and brine consecutively, dried. over Na2SO4, filtered and purified by flash chromatography to afford 35 g 2-(3,5-bis(trifluoromethyl)phenyl)-N-(6-chloro-4-(4-tolyl)pyridin-3-yl)-N,2-dimethylpropanamide as a white solid (Yield: 83.9%).

reactant | 6-chloro-N-methyl-4-(o-tolyl)pyridin-3-amine | 81.3 mmol, 18.87 g | ClC1=CC(=C(C=N1)NC)C1=C(C=CC=C1)C | C13H13ClN2
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 89.4 mmol, 28.5 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | NaHCO3 | 1 L | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 243.9 mmol, 29.8 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3,5-bis(trifluoromethyl)phenyl)-N-(6-chloro-4-(4-tolyl)pyridin-3-yl)-N,2-dimethylpropanamide | 35 g, Yield: 83.9% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=CC=C(C=C1)C)Cl)(C)C)(F)F | C25H21ClF6N2O
